US04853470
4-(1H-Indazol-3-yl)piperidine-1-carboxylic acid methyl ester
To a stirred suspension of 4-(1H-indazol-3-yl)piperidine-1-carbonitrile (7.9 g, 0.024 mole) in methanol (15 ml) was added 4.9 ml of 25% solution of sodium methoxide in methanol. The solution was stirred at ambient temperature for 16 hours, made neutral to pH paper with glacial acetic acid, and extracted with ether. The aqueous solution was made basic with concentrated NH4OH, and extracted thrice with CH2Cl2 (35 ml). The organic extracts were combined, washed (H2O), dried (MgSO4) and the solvent removed in vacuo to yield 6.6 g of an oil. The oil was triturated with hexane and the resultant solid collected (5.4 g). Recrystallization from CH3CN (twice) yielded 3.5 g (56.8%) of 4-(1H-indazol-3-yl)piperidine-1-carboximidic acid methyl ester having a melting point of 153°-155° C.

reactant | 4-(1H-indazol-3-yl)piperidine-1-carbonitrile | 0.024 mole, 7.9 g | N1N=C(C2=CC=CC=C12)C1CCN(CC1)C#N | C13H14N4
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 15 ml | CO | CH4O
product | 4-(1H-Indazol-3-yl)piperidine-1-carboxylic acid methyl ester | 6.6 g | COC(=O)N1CCC(CC1)C1=NNC2=CC=CC=C12 | C14H17N3O2
